US07067517B2
Methyl-phenyl-carbamic acid 4-(3-methyl-butylsulfamoyl)-phenyl ester
The title compound was prepared from 4-hydroxy-N-(3-methyl-butyl)-benzenesulfonamide and N-methyl-N-phenyl carbamoylchloride, preparative HPLC (Method C) (11%, light yellow oil). HPLC-MS m/z=377.2 (M+1), Rt: 4.32 min.

reactant | 4-hydroxy-N-(3-methyl-butyl)-benzenesulfonamide | OC1=CC=C(C=C1)S(=O)(=O)NCCC(C)C | C11H17NO3S
reactant | N-methyl-N-phenyl carbamoylchloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-(3-methyl-butylsulfamoyl)-phenyl ester | CC(CCNS(=O)(=O)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)C | C19H24N2O4S
